US04609650
16β-Ethyl-17β-n-octanoyloxyacetoxy-4-estren-3-one
In 60 ml of acetone is dissolved 1.0 ml of n-octanoic acid, and 3.0 ml of 2N-NaOH, 15 ml of water and 1.8 g of 16β-ethyl-17β-bromoacetoxy-4-estren-3-one are serially added to the above solution. The mixture is refluxed for 4 hours. The solvent is distilled off under reduced pressure and the residue is extracted with 150 ml of ethyl acetate. The organic layer is separated, washed with water and saturated aqueous sodium chloride solution and dried over anhydrous magnesium sulfate. The solvent is then distilled off under reduced pressure and the residue is subjected to column chromatography. Following passage of 50 ml of diisopropyl ether, elution is carried out with 300 ml of the same solvent. The eluate is evaporated under reduced pressure to remove the solvent, giving 1.7 g of the above-identified compound as a colorless oil.

reactant | 16β-ethyl-17β-bromoacetoxy-4-estren-3-one | 1.8 g | C(C)[C@@H]1[C@@H]([C@]2(C)[C@@H](C1)[C@@H]1CCC3=CC(CC[C@@H]3[C@H]1CC2)=O)OC(CBr)=O | C22H31BrO3
reactant | n-octanoic acid | 1.0 ml | C(CCCCCCC)(=O)O | C8H16O2
solvent | acetone | 60 ml | CC(=O)C | C3H6O
solvent | NaOH | [OH-].[Na+]
solvent | water | 15 ml | O | H2O
product | 16β-Ethyl-17β-n-octanoyloxyacetoxy-4-estren-3-one | 1.7 g | C(C)[C@@H]1[C@@H]([C@]2(C)[C@@H](C1)[C@@H]1CCC3=CC(CC[C@@H]3[C@H]1CC2)=O)OC(COC(CCCCCCC)=O)=O | C30H46O5
